US09035064B2
Synthesis of 3,5-difluoro-N-(4-methyl-1,2,5-oxadiazol-3-yl)isonicotinamide (Table example No. 2-6)
200 mg (1.26 mmol) of 3,5-difluoroisonicotinic acid and 125 mg (1.26 mmol) of 4-methyl-1,2,5-oxadiazol-3-amine are dissolved at RT in 6 ml of dichloromethane, and 0.88 ml (6.29 mmol) of triethylamine, 31 mg (0.25 mmol) of DMAP and 1.20 g (1.89 mmol) of 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (50% solution in THF) are added. The reaction mixture is stirred at RT for 20 h and then washed twice with 5 ml each time of water. The organic phase is dried over Na2SO4 and concentrated. The residue is purified by column chromatography (silica gel, heptane/ethyl acetate). Yield: 100 mg (31%).

reactant | 3,5-difluoroisonicotinic acid | 1.26 mmol, 200 mg | FC1=C(C(=O)O)C(=CN=C1)F | C6H3F2NO2
reactant | 4-methyl-1,2,5-oxadiazol-3-amine | 1.26 mmol, 125 mg | CC=1C(=NON1)N | C3H5N3O
reactant | triethylamine | 6.29 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 1.89 mmol, 1.20 g | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.25 mmol, 31 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3,5-difluoro-N-(4-methyl-1,2,5-oxadiazol-3-yl)isonicotinamide | FC1=C(C(=O)NC2=NON=C2C)C(=CN=C1)F | C9H6F2N4O2
